US06977262B2
Ethyl 4,7-dihydro-6-propyl-4-(2-propylphenyl)-1H-pyrazolo[3,4-b]pyridine-5-carboxylate
The title compound was prepared from 2-propylbenzaldehyde, 3-aminopyrazole and ethyl 3-ketohexanoate in the same manner as in Example 25.

reactant | 2-propylbenzaldehyde | C(CC)C1=C(C=O)C=CC=C1 | C10H12O
reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
reactant | ethyl 3-ketohexanoate | O=C(CC(=O)OCC)CCC | C8H14O3
product | Ethyl 4,7-dihydro-6-propyl-4-(2-propylphenyl)-1H-pyrazolo[3,4-b]pyridine-5-carboxylate | C(CC)C1=C(C(C2=C(N1)NN=C2)C2=C(C=CC=C2)CCC)C(=O)OCC | C21H27N3O2
